US04218347
Methyl 2-formyl-bicyclo[2.2.1]hept-3-yl-carboxylate
4 g (0.022 mole) of methyl 2-formyl-bicyclo[2.2.1]hept-5-en-3-yl-carboxylate--see Example 2 above--in 60 ml of ethyl acetate were hydrogenated in the presense of 100 mg of 10% Pd over charcoal at atmospheric pressure and at room temperature. After absorption (about 1 h) of the theoretical quantity of hydrogen, the reaction mixture was filtered and the clear filtrate was concentrated under reduced pressure. The obtained residue was distilled (pressure: 0.05 Torr/bath temperature: 82-115°) to yield 3.27 g (yield 82%) of the title compound.

reactant | methyl 2-formyl-bicyclo[2.2.1]hept-5-en-3-yl-carboxylate | 0.022 mole, 4 g | C(=O)C1C2C=CC(C1C(=O)OC)C2 | C10H12O3
reactant | charcoal | C | CH4
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd | 100 mg | [Pd] | Pd
product | Methyl 2-formyl-bicyclo[2.2.1]hept-3-yl-carboxylate | 3.27 g, yield 82% | C(=O)C1C2CCC(C1C(=O)OC)C2 | C10H14O3
